US08247415B2
Step A: Tert-butyl 2-(3-methyl-1H-1,2,4-triazol-1-yl)propanoate
To a solution of 3-methyl-1H-1,2,4-triazole (7.3 g, 88 mmol) in DMF (75 mL) was added K2CO3 (60.7 g, 439 mmol) and 2-bromopropionic acid tert-butyl ester (14.6 mL, 88 mmol). The reaction was stirred at room temperature overnight. The mixture was diluted with EtOAc (500 mL), washed with water (×3) then brine. Dried over MgSO4 and concentrated. The residue was purified by column chromatography on silica gel, eluting with EtOAc/isohexane (20 to 100%) to give 13 g of crude product as a 3:1 mixture of regioisomers. The mixture was purified by Chiralcel OD with a gradient from 4% to 30% IPA/Heptane. Then the first two peaks were separated with Chiracel OD column isocratically eluting with 4% IPA/Heptane. The second peak was collected as the desired single stereoisomer (R or S) (2-(3-methyl-1H-1,2,4-triaol-1-yl)propanoic acid tert-butyl ester) (3.5 g, 19%). 1H-NMR (500 MHz, CDCl3) δ 8.05 (s, 1H), 4.90 (q, J=7 Hz, 1H), 2.35 (s, 3H), 1.72 (d, J=7 Hz, 3H), 1.40 (s, 9H). ESI-MS calculated for C10H17N3O2: Exact Mass: 211.13. Found 156.05 (-tBu).

reactant | 3-methyl-1H-1,2,4-triazole | 88 mmol, 7.3 g | CC1=NNC=N1 | C3H5N3
reactant | K2CO3 | 439 mmol, 60.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromopropionic acid tert-butyl ester | 88 mmol, 14.6 mL | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | Tert-butyl 2-(3-methyl-1H-1,2,4-triazol-1-yl)propanoate | 13 g | CC1=NN(C=N1)C(C(=O)OC(C)(C)C)C | C10H17N3O2
